### PR TITLE
[Merged by Bors] - chore: replace `(mu s).toReal` with `mu.real s`, when `mu` is a measure, throughout the library

### PR DESCRIPTION
**Pull request by sgouezel**
Also
* add a minimal additional API to `Measure.real` when it helps streamline proofs
* rename (and deprecate) a few lemmas when the change impacts their name
* Move the definition of `Measure.real` to `MeasureSpaceDefs` to make sure that imports remain reasonable

---

The PR is long but mostly straightforward. It was painful to get it to build because changes propagate to other files. This means that I wouldn't know how to split it into more atomic pieces (and I wouldn't want to do it unless absolutely requested, because it would certainly be very painful again).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/BumpFunction/Normed.lean [hunk 1]
```diff
@@ -95,46 +95,44 @@ end
...
-    (μ (closedBall c f.rOut)).toReal / K ^ finrank ℝ E ≤ ∫ x, f x ∂μ := by
+    μ.real (closedBall c f.rOut) / K ^ finrank ℝ E ≤ ∫ x, f x ∂μ := by
   have K_pos : 0 < K := by
     simpa [f.rIn_pos, not_lt.2 f.rIn_pos.le] using mul_pos_iff.1 (f.rOut_pos.trans_le h)
   apply le_trans _ (f.measure_closedBall_le_integral μ)
-  rw [div_le_iff₀ (pow_pos K_pos _), addHaar_closedBall' _ _ f.rIn_pos.le,
-    addHaar_closedBall' _ _ f.rOut_pos.le, ENNReal.toReal_mul, ENNReal.toReal_mul,
-    ENNReal.toReal_ofReal (pow_nonneg f.rOut_pos.le _),
-    ENNReal.toReal_ofReal (pow_nonneg f.rIn_pos.le _), mul_assoc, mul_comm _ (K ^ _), ← mul_assoc,
+  rw [div_le_iff₀ (pow_pos K_pos _), addHaar_real_closedBall' _ _ f.rIn_pos.le,
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/BumpFunction/Normed.lean:127]: Much nicer indeed!

**Review by grunweg — COMMENTED** [review]
Reviewed the first 25 files (i.e., up to including Mathlib/MeasureTheory/Function/ConditionalExpectation/Basic.lean) so far: looking good!

File: Mathlib/Analysis/Fourier/ZMod.lean [hunk 2]
```diff
@@ -130,8 +130,8 @@ lemma dft_eq_fourier {E : Type*} [NormedAddCommGroup E] [NormedSpace ℂ E] [Com
     (Φ : ZMod N → E) (k : ZMod N) :
     𝓕 Φ k = Fourier.fourierIntegral toCircle Measure.count Φ k := by
   simp only [dft_apply, stdAddChar_apply, Fourier.fourierIntegral_def, Circle.smul_def,
-    integral_countable' <| .of_finite .., Measure.count_singleton, ENNReal.toReal_one, one_smul,
-    tsum_fintype]
+    integral_countable' <| .of_finite .., MeasurableSpace.measurableSet_top,
+    measureReal_count_singleton', one_smul, tsum_fintype]
```
Comment (EtienneC30) [inline Mathlib/Analysis/Fourier/ZMod.lean:134]: You can do this:
```suggestion
    integral_countable' <| .of_finite .., measureReal_count_singleton, one_smul, tsum_fintype]
```
Also I'm wondering wether `measureReal_count_singleton` should rather be named `count_real_singleton` as you named some lemmas about `volume.real` starting with `volume_real`.

File: Mathlib/Analysis/SpecialFunctions/Gaussian/GaussianIntegral.lean [hunk 3]
```diff
@@ -213,9 +213,9 @@ theorem integral_gaussian_sq_complex {b : ℂ} (hb : 0 < b.re) :
       ring
     _ = ↑π / b := by
       have : 0 ≤ π + π := by positivity
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/Gaussian/GaussianIntegral.lean:215]: This line became useless.

File: Mathlib/MeasureTheory/Integral/Average.lean [hunk 4]
```diff
@@ -401,6 +403,7 @@ theorem setAverage_const {s : Set α} (hs₀ : μ s ≠ 0) (hs : μ s ≠ ∞) (
 theorem integral_average (μ : Measure α) [IsFiniteMeasure μ] (f : α → E) :
     ∫ _, ⨍ a, f a ∂μ ∂μ = ∫ x, f x ∂μ := by simp
 
+
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/Average.lean:406]: Why the extra line here?

File: Mathlib/MeasureTheory/Integral/Bochner/L1.lean [hunk 5]
```diff
@@ -92,30 +92,27 @@ theorem weightedSMul_add_measure {m : MeasurableSpace α} (μ ν : Measure α) {
...
+  rw [measureReal_add_apply, add_smul]
 
 theorem weightedSMul_smul_measure {m : MeasurableSpace α} (μ : Measure α) (c : ℝ≥0∞) {s : Set α} :
     (weightedSMul (c • μ) s : F →L[ℝ] F) = c.toReal • weightedSMul μ s := by
   ext1 x
   push_cast
   simp_rw [Pi.smul_apply, weightedSMul_apply]
-  push_cast
-  simp_rw [Pi.smul_apply, smul_eq_mul, toReal_mul, smul_smul]
+  simp [smul_smul]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/Bochner/L1.lean:102]: A bit shorter:
```lean
  ext1 x
  simp [weightedSMul_apply, smul_smul]
```

File: Mathlib/MeasureTheory/Integral/FinMeasAdditive.lean [hunk 6]
```diff
@@ -198,8 +199,8 @@ theorem of_smul_measure {c : ℝ≥0∞} (hc_ne_top : c ≠ ∞) (hT : Dominated
   refine ⟨hT.1.of_eq_top_imp_eq_top (μ := c • μ) h, fun s hs hμs => ?_⟩
   have hcμs : c • μ s ≠ ∞ := mt (h s hs) hμs.ne
   rw [smul_eq_mul] at hcμs
-  simp_rw [DominatedFinMeasAdditive, Measure.smul_apply, smul_eq_mul, toReal_mul] at hT
   refine (hT.2 s hs hcμs.lt_top).trans (le_of_eq ?_)
+  simp
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/FinMeasAdditive.lean:203]: This is non-terminal.
```suggestion
  simp only [measureReal_ennreal_smul_apply]
```

File: Mathlib/MeasureTheory/Integral/PeakFunction.lean [hunk 7]
```diff
@@ -292,13 +292,11 @@ theorem tendsto_setIntegral_pow_smul_of_unique_maximum_of_isCompact_of_measure_n
     have t'_pos : 0 < t' := t_pos.trans_lt tt'
     obtain ⟨v, v_open, x₀_v, hv⟩ : ∃ v : Set α, IsOpen v ∧ x₀ ∈ v ∧ v ∩ s ⊆ c ⁻¹' Ioi t' :=
       _root_.continuousOn_iff.1 hc x₀ h₀ (Ioi t') isOpen_Ioi t'x₀
-    have M : ∀ n, ∀ x ∈ s \ u, φ n x ≤ (μ (v ∩ s)).toReal⁻¹ * (t / t') ^ n := by
+    have M : ∀ n, ∀ x ∈ s \ u, φ n x ≤ (μ.real (v ∩ s)) ⁻¹ * (t / t') ^ n := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/PeakFunction.lean:295]: I don't think there should be a space here?
```suggestion
    have M : ∀ n, ∀ x ∈ s \ u, φ n x ≤ (μ.real (v ∩ s))⁻¹ * (t / t') ^ n := by
```

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 8]
```diff
@@ -89,6 +93,15 @@ instance Measure.instOuterMeasureClass [MeasurableSpace α] : OuterMeasureClass
   measure_iUnion_nat_le m := m.iUnion_nat
   measure_mono m := m.mono
 
+/-- The real-valued version of a measure. Maps infinite measure sets to zero. Use as `μ.real s`. -/
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean:96]: Maybe it's worth pointing to the file providing the API in this docstring?

File: Mathlib/Probability/Moments/Basic.lean [hunk 9]
```diff
@@ -120,33 +120,33 @@ theorem mgf_zero_measure : mgf X (0 : Measure Ω) = 0 := by ext; simp [mgf]
 theorem cgf_zero_measure : cgf X (0 : Measure Ω) = 0 := by ext; simp [cgf]
 
 @[simp]
-theorem mgf_const' (c : ℝ) : mgf (fun _ => c) μ t = (μ Set.univ).toReal * exp (t * c) := by
+theorem mgf_const' (c : ℝ) : mgf (fun _ => c) μ t = μ.real Set.univ * exp (t * c) := by
   simp only [mgf, integral_const, smul_eq_mul]
 
 theorem mgf_const (c : ℝ) [IsProbabilityMeasure μ] : mgf (fun _ => c) μ t = exp (t * c) := by
-  simp only [mgf_const', measure_univ, ENNReal.toReal_one, one_mul]
+  simp [mgf_const']
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/Basic.lean:127]:
```suggestion
  simp
```

**Comment by sgouezel** [comment]
Thanks for the review!

**Comment by EtienneC30** [comment]
Thanks for this work!
maintainer merge
